US06143764
4-Bromo-1-methoxymethylphenol
Commercially available 4-bromophenol (17.3 g) was dissolved in N,N-dimethylformamide (90 ml), to which sodium hydride (2.64 g) was added while cooled in ice. After stirring at room temperature overnight, chloromethyl methyl ether (8.35 ml) was added, and the admixture was stirred for a further 1 hour. The reaction mixture was partitioned between water and ethyl acetate, and the ethyl acetate layer was dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting with hexane/acetone to obtain 18.25 g of the title compound (yield: 84%).

reactant | 4-bromophenol | 17.3 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 8.35 ml | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-1-methoxymethylphenol | 18.25 g, yield: 84% | BrC1=CCC(C=C1)(O)COC | C8H11BrO2
